US05981776
Methyl 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-(3,5-di-tert-butyl-4-hydroxybenzyl)-2H-1-benzofuran-6-carboxylate
A mixture of palladium diacetate (9 mg, 0.04 mmol), methyl 4-iodo-3-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propenyloxy]benzoate (180 mg, 0.2 mmol), a solution containing 30% sodium methoxide in methanol (70 mg, 0.4 mmol) and the product tris[3,5-bis(1,1-dimethylethyl)-4-(trimethylsilyloxy)-phenyl]boroxine (100 mg, 0.2 mmol) in DME (3 ml) is heated at 60° C. for 2 h. The reaction medium is concentrated on a rotary evaporator under vacuum at 40° C. and is treated with 10 ml of water and ethyl ether. After separation of the phases by settling, the organic phase is washed twice with 10 ml of water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The product is purified by flash chromatography on a column of silica (40% CH2Cl2, 60% heptane).

reactant | methyl 4-iodo-3-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propenyloxy]benzoate | 0.2 mmol, 180 mg | IC1=C(C=C(C(=O)OC)C=C1)OC=C(C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C25H29IO3
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 0.4 mmol, 70 mg | CO | CH4O
reactant | tris[3,5-bis(1,1-dimethylethyl)-4-(trimethylsilyloxy)-phenyl]boroxine | 0.2 mmol, 100 mg | CC(C)(C)C=1C=C(C=C(C1O[Si](C)(C)C)C(C)(C)C)B1OB(OB(O1)C1=CC(=C(C(=C1)C(C)(C)C)O[Si](C)(C)C)C(C)(C)C)C1=CC(=C(C(=C1)C(C)(C)C)O[Si](C)(C)C)C(C)(C)C | C51H87B3O6Si3
solvent | DME | 3 ml | COCCOC | C4H10O2
catalyst | palladium diacetate | 0.04 mmol, 9 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | Methyl 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-(3,5-di-tert-butyl-4-hydroxybenzyl)-2H-1-benzofuran-6-carboxylate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1(COC2=C1C=CC(=C2)C(=O)OC)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C | C39H50O4
